US04168964
8-Bromo-6-(m-dimethylaminophenyl)-imidazo-[1,5-d]-as-triazin-4(3H)-one.
Sodium cyanoborohydride (1.2 gm., 0.019 mole) is added to a stirred solution of 8-bromo-6-(m-aminophenyl)imidazo-[1,5-d]-as-triazine-4(3H)-one, aqueous formaldehyde (5 ml., 37%) in acetonitrile (110 ml.). The reaction mixture is stirred for 15 minutes then acetic acid is added to adjust the pH of the reaction mixture to 7. The reaction mixture is stirred for 45 minutes while the pH of the mixture is maintained at 7 with acetic acid being added as needed. The solvent is then evaporated in vacuo, the residual oil is added to 2 N potassium hydroxide (150 ml.), and crystallizes. The product is washed with water, and recrystallized from acetone-water, m.p. 206° C.(d).

reactant | Sodium cyanoborohydride | 0.019 mole, 1.2 gm | C(#N)[BH3-].[Na+]
reactant | 8-bromo-6-(m-aminophenyl)imidazo-[1,5-d]-as-triazine-4(3H)-one | BrC=1N=C(N2C(NN=CC21)=O)C2=CC(=CC=C2)N | C11H8BrN5O
reactant | formaldehyde | 5 ml | C=O | CH2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 110 ml | C(C)#N | C2H3N
product | 8-Bromo-6-(m-dimethylaminophenyl)-imidazo-[1,5-d]-as-triazin-4(3H)-one | BrC=1N=C(N2C(NN=CC21)=O)C2=CC(=CC=C2)N(C)C | C13H12BrN5O
